US05349050
(3) Boc-Ser(Bzl)-Pro-Arg(NO2)-Gly-NH2
The desired compound was prepared from 6.0 g of Boc-Pro-Arg(NO2)-Gly-NH2, 35 ml of 4 N HCl-AcOEt, 1.8 ml of Et3N and 5.1 g of Boc-Ser(Bzl)-OSu in the same manner as in Example 26-(4).

reactant | Boc-Pro-Arg(NO2)-Gly-NH2 | 6.0 g | N1([C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)NCC(=O)N)CCC1)C(=O)OC(C)(C)C | C18H32N8O7
reactant | HCl AcOEt | 4 N, 35 ml | Cl.CCOC(=O)C
reactant | Boc-Ser(Bzl)-OSu | 5.1 g | N([C@@H](COCC1=CC=CC=C1)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C19H24N2O7
solvent | Et3N | 1.8 ml | CCN(CC)CC | C6H15N
product | Boc-Ser(Bzl)-Pro-Arg(NO2)-Gly-NH2 | N([C@@H](COCC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)NCC(=O)N)CCC1)C(=O)OC(C)(C)C | C28H43N9O9
